US08871934B2
1-[2-(5-hydroxy-5-trifluoromethyl-5-H-indeno[1,2-b]pyridin-3-yloxy)-ethyl]-pyrrolidin-2-one
3-[2-(2-oxo-pyrrolidin-1-yl)-ethoxy]-indeno[1,2-b]pyridin-5-one (0.0376 g) and potassium carbonate (0.001 g) were mixed with dimethylformamide (1.0 ml), and the mixture was stirred at 0° C. To this mixture was added trimethyl(trifluoromethyl)silane (0.035 ml), and the mixture was stirred at 0° C. for 1 hr. Trimethyl(trifluoromethyl)silane (0.018 ml) was further added, and the mixture was stirred at 0° C. for 1 hr. To the reaction mixture was added acetic acid (0.010 ml), then a 1M solution (0.12 ml) of tetrabutylammonium fluoride in tetrahydrofuran was added, and the mixture was stirred at 0° C. for 30 min. To the reaction mixture was added ethyl acetate (20 ml), and the mixture was placed in a separatory funnel. The organic layer was washed 3 times with water (10 ml) and once with saturated brine (10 ml). The organic layer was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by preparative thin layer chromatography (silica gel, eluent: n-hexane/ethyl acetate=7/3) to give the title compound (0.0389 g, 68%).

reactant | 3-[2-(2-oxo-pyrrolidin-1-yl)-ethoxy]-indeno[1,2-b]pyridin-5-one | 0.0376 g | O=C1N(CCC1)CCOC=1C=C2C(=NC1)C1=CC=CC=C1C2=O | C18H16N2O3
reactant | potassium carbonate | 0.001 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethyl(trifluoromethyl)silane | 0.035 ml | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | Trimethyl(trifluoromethyl)silane | 0.018 ml | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.010 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | 1-[2-(5-hydroxy-5-trifluoromethyl-5-H-indeno[1,2-b]pyridin-3-yloxy)-ethyl]-pyrrolidin-2-one | 0.0389 g, 68% | OC1(C2=CC=CC=C2C2=NC=C(C=C21)OCCN2C(CCC2)=O)C(F)(F)F | C19H17F3N2O3
